US08309734B2
[2-(2,5-Dichloro-phenoxy)-5-fluoro-phenyl]-(3,4-dihydro-2H-quinolin-1-yl)-methanone
The title compound was prepared in analogy to Example 110, Step 2, replacing 2-(2,5-dichloro-phenoxy)-benzoic acid (Example 110, Step 1) with 2-(2,5-dichloro-phenoxy)-5-fluoro-benzoic acid and 6-fluoro-1,2,3,4-tetrahydro-quinoline with 1,2,3,4-tetrahydro-quinoline ([CAS RN 635-46-1]). MS (ISP): 416.1 [M+H]+.

reactant | 2-(2,5-dichloro-phenoxy)-5-fluoro-benzoic acid | ClC1=C(OC2=C(C(=O)O)C=C(C=C2)F)C=C(C=C1)Cl | C13H7Cl2FO3
reactant | 6-fluoro-1,2,3,4-tetrahydro-quinoline | FC=1C=C2CCCNC2=CC1 | C9H10FN
reactant | 1,2,3,4-tetrahydro-quinoline | N1CCCC2=CC=CC=C12 | C9H11N
product | [2-(2,5-Dichloro-phenoxy)-5-fluoro-phenyl]-(3,4-dihydro-2H-quinolin-1-yl)-methanone | ClC1=C(OC2=C(C=C(C=C2)F)C(=O)N2CCCC3=CC=CC=C23)C=C(C=C1)Cl | C22H16Cl2FNO2
